US09034907B2
5-ethyl-2,3-dihydro-6-methyl-3-(3-(1H-imidazol-1-yl)propyl)-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one
The compound was synthesized starting from methyl 4-ethyl-2-isothiocyanato-5-methylthiophene-3-carboxylate (0.010 g. 0.04 mmol) and 3-(1H-imidazol-1-yl)propan-1-amine (0.005 g, 0.04 mmol) as described above.

reactant | methyl 4-ethyl-2-isothiocyanato-5-methylthiophene-3-carboxylate | 0.04 mmol, 0.010 g | C(C)C=1C(=C(SC1C)N=C=S)C(=O)OC | C10H11NO2S2
reactant | 3-(1H-imidazol-1-yl)propan-1-amine | 0.04 mmol, 0.005 g | N1(C=NC=C1)CCCN | C6H11N3
product | 5-ethyl-2,3-dihydro-6-methyl-3-(3-(1H-imidazol-1-yl)propyl)-2-thioxothieno[2,3-d]pyrimidin-4(1H)-one | C(C)C1=C(SC=2NC(N(C(C21)=O)CCCN2C=NC=C2)=S)C | C15H18N4OS2
